US08216548B2
(a) N-Boc-N-methylhydroxylamine
N-methyl-hydroxylamine (4.2 g, 0.05 mol) was dissolved in a 50% aqueous tetrahydrofuran (THF) (20 ml) and cooled on ice while stirring. Potassium carbonate (3.6 g, 0.0275 mol) was added to the ice-cooled solution followed by di-tert-butyl dicarbonate (12 g, 0.055 mol) dissolved in 15 ml THF. The mixture was stirred at 0° C. for 2 hours and at room temperature for 2 hours. The THF was removed under reduced pressure and the residue was dissolved in DCM. The solution was washed two times with water, dried (MgSO4), and concentrated giving a pink low viscous oil of 6.47 g(88%). The product was identified by electrospray mass spectrometry (ESI-MS)(MH+ calculated 147.09; found 147.6). The product was used in without further purification.

reactant | N-methyl-hydroxylamine | 0.05 mol, 4.2 g | CNO | CH5NO
reactant | Potassium carbonate | 0.0275 mol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-tert-butyl dicarbonate | 0.055 mol, 12 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | O1CCCC1 | C4H8O
product | N-Boc-N-methylhydroxylamine | C(=O)(OC(C)(C)C)N(O)C | C6H13NO3
